US09108966B2
LiBH4 (0.54 g, 24.67 mmol) was added to a solution of (2S,5R)-ethyl 6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylate (5 g, 16.44 mmol) in MeOH (50 mL) at −10° C. After 15 min, another portion of LiBH4 (0.54 g, 24.67 mmol) was added and the mixture was stirred at −10 to 0° C. for 4-5 h. The reaction mixture was carefully quenched by addition of sat. NaH2PO4 (50 mL) at 0° C. The mixture was diluted with water (20 mL) and extracted with DCM three times. The combined organic layer was concentrated and purified by silica gel column chromatography (gradient elution 0-100% petroleum ether/EtOAc, then 0-2% MeOHEtOAc) to give (2S,5R)-6-(benzyloxy)-2-(hydroxymethyl)-1,6-diazabicyclo[3.2.1]octan-7-one (3.8 g, 88%) as a white solid. ESI-MS (EI+, m/z): 263.1. 1H-NMR (500M, CDCl3): 7.44-7.35 (m, 5H), 5.05 (d, J=11.5 Hz, 1H), 4.90 (d, J=11.5 Hz, 1H), 3.73-3.69 (m, 1H), 3.61-3.58 (m, 2H), 3.33 (m, 1H), 3.01 (br d, J=12.0 Hz, 1H), 2.91 (m, 1H), 2.03-1.95 (m, 2H), 1.58-1.54 (m, 1H), 1.39-1.24 (m, 1H).

reactant | LiBH4 | 24.67 mmol, 0.54 g | [Li+].[BH4-]
reactant | (2S,5R)-ethyl 6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylate | 16.44 mmol, 5 g | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)OCC | C16H20N2O4
reactant | LiBH4 | 24.67 mmol, 0.54 g | [Li+].[BH4-]
solvent | MeOH | 50 mL | CO | CH4O
product | (2S,5R)-6-(benzyloxy)-2-(hydroxymethyl)-1,6-diazabicyclo[3.2.1]octan-7-one | 3.8 g, 88% | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)CO | C14H18N2O3
